US07354932B2
To solution of 4,5,6,7-tetrahydro-1H-benzoimidazole (1.9992 g, 16.4 mmol) and triethylamine (4.60 mL, 32.8 mmol) in CH2Cl2 (20 mL) at 0° C. was added dropwise a solution of dimethyl sulfamoyl chloride (1.76 mL, 16.4 mmol) in CH2Cl2 (10 mL). The reaction was warmed to room temperature and stirred for 3.5 hours. CH2Cl2 (80 mL) was added and the organic phase was washed with distilled water (1×80 mL). The aqueous washing was extracted with CH2Cl2 (2×40 mL), and the combined organic extracts were washed with brine (1×80 mL), dried (Na2SO4), and concentrated. Purification of the crude material by column chromatography on silica gel (2:1 hexanes-EtOAc) provided 2.89 g (77%) of 4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide as a white solid. 1H NMR (CDCl3) δ 1.77-1.86 (m, 4H), 2.58-2.61 (m, 2H), 2.72 (t, 2H, J=6 Hz), 2.87 (s, 6H), 7.77 (s, 11H).

reactant | 4,5,6,7-tetrahydro-1H-benzoimidazole | 16.4 mmol, 1.9992 g | N1C=NC2=C1CCCC2 | C7H10N2
reactant | triethylamine | 32.8 mmol, 4.60 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfamoyl chloride | 16.4 mmol, 1.76 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 4,5,6,7-tetrahydro-benzoimidazole-1-sulfonic acid dimethylamide | 2.89 g, 77% | CN(S(=O)(=O)N1C=NC2=C1CCCC2)C | C9H15N3O2S
